US06180653B2
Preparation of 5-(4-chlorophenyl)-3-phenylacetylaminopyrazole
3-Amino-5-(4-chlorophenyl)pyrazole (96.8 mg) and phenylacetic acid (74.9 mg) were dissolved in pyridine (2.5 ml) to which was subsequently added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (143.8 mg), and the mixture was stirred at room temperature for 3 hours. The reaction solution was diluted with ethyl acetate (30 ml), washed with 1 N aqueous potassium hydrogensulfate solution (15 ml×2) and saturated brine (15 ml) and then dried over anhydrous magnesium sulfate. The solvent was distilled away under a reduced pressure, and the resulting residue was crystallized from ethyl acetate and hexane to obtain the title compound (107.8 mg) as white crystals (melting point: 222-224° C.).

reactant | 3-Amino-5-(4-chlorophenyl)pyrazole | 96.8 mg | NC1=NNC(=C1)C1=CC=C(C=C1)Cl | C9H8ClN3
reactant | phenylacetic acid | 74.9 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 143.8 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 5-(4-chlorophenyl)-3-phenylacetylaminopyrazole | 107.8 mg | ClC1=CC=C(C=C1)C1=CC(=NN1)NC(CC1=CC=CC=C1)=O | C17H14ClN3O
